US06235778B1
g) 1,2-Benzenedisulfonic anhydride
A mixture of 1,2-benzenedisulfonic acid dipotassium salt (20 g, 0.064 mol) in fuming sulfuric acid (100 mL) was heated at 70-75° C. overnight. The reaction mixture was slowly poured onto ice and the precipitate was quickly collected by filtration. The solid was treated with benzene (500 mL) and dried over anhydrous sodium sulfate. The solvent was filtered and evaporated to give the title compound as a crystalline solid (7.0 g, 50% yield), mp 182-3° C. 1H-NMR (300 MHz, CDCl3) δ8.02-8.09 (m, 4H).

reactant | 1,2-benzenedisulfonic acid dipotassium salt | 0.064 mol, 20 g | [K+].[K+].C=1(C(=CC=CC1)S(=O)(=O)[O-])S(=O)(=O)[O-]
solvent | sulfuric acid | 100 mL | S(O)(O)(=O)=O | H2O4S
product | 1,2-Benzenedisulfonic anhydride | 7.0 g, 50% yield | C=12C(=CC=CC1)S(=O)(=O)OS2(=O)=O | C6H4O5S2
